Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
BPH, Lower urinary tract symptoms, urgency/frequency
 
Major Surgical or Invasive Procedure:
Cystoscopy, bipolar transurethral resection of prostate

 
History of Present Illness:
Mr. ___ is a ___ male with lower urinarytract symptoms. 
Symptoms below began over a year ago. He has been on Flomax and 
was recently also started on finasteride for elevated post void 
residual. He has persistent dysuria, frequency and incontinence. 
He was started on Ditropan but could not tolerate it due to SE. 
He was also trialed on tolteridine but reports persistent SE and 


Worsening symptoms with incomplete emptying on Tolterodiene 
worsening dysuria, urinary frequency and urinary incontinence

Lower urinary symptoms include:
[x] Trouble initiating the urinary stream
[x] Frequency
[x] Urgency
[x] Nocturia

 
Past Medical History:
B12 DEFICIENCY ANEMIA                                           
ERECTILE DYSFUNCTION                                            
HYPERTENSION                                                    
NIGHT SWEATS                                                    
OSTEOARTHRITIS                                                  
PULMONARY NODULE                                                
S/P LASER TX KIDNEY STONE                                       
BENIGN PROSTATIC HYPERTROPHY                                    
hypertension
seronegative RA 
nephrolithiasis

 
Social History:
___
Family History:
No h/o cancer.
No h/o immune diseases (although not clear that question was 
conveyed correctly)
No h/o anemia
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 05:57AM BLOOD WBC-14.4*# RBC-4.24* Hgb-12.9* Hct-37.2* 
MCV-88 MCH-30.4 MCHC-34.7 RDW-12.8 RDWSD-40.8 Plt ___
___ 05:57AM BLOOD Glucose-171* UreaN-20 Creat-1.5* Na-134 
K-4.7 Cl-104 HCO3-24 AnGap-11
___ 05:57AM BLOOD Calcium-9.0 Phos-2.6* Mg-1.9
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. Mr. ___ received ___ 
antibiotic prophylaxis and the postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
vodiding trial.  Post void residuals were checked. His urine was 
clear and and without clots. He remained a-febrile throughout 
his hospital stay.  At discharge, Mr. ___ had pain well 
controlled with oral pain medications, was tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  He was given oral pain medications on discharge and 
explicit instructions to follow up in clinic.

 
Medications on Admission:
Active Medication list as of ___:  
 
 Medications - Prescription  
 CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) 1,000 
 
 mcg/mL injection solution. inject 1 ml once a month  
 FINASTERIDE - finasteride 5 mg tablet. 1 tablet(s) by mouth 
once  
 a day  
 FLUTICASONE - fluticasone 50 mcg/actuation nasal  
 spray,suspension. 1 spray each nostril twice a day  
 LISINOPRIL - lisinopril 2.5 mg tablet. 1 Tablet(s) by mouth 
once  
 a day  
 NAPROXEN - naproxen 500 mg tablet. 1 tablet(s) by mouth twice a 
 
 day as needed for back pain  
 POTASSIUM CITRATE - potassium citrate ER 10 mEq (1,080 mg)  
 tablet,extended release. one tablet(s) by mouth twice a day  
 SERTRALINE - sertraline 25 mg tablet. 0.5 (One half) tablet(s) 
by  
 mouth daily  
 SILDENAFIL [VIAGRA] - Viagra 100 mg tablet. 1 Tablet(s) by 
mouth  
 once a day as needed for prn  
 TAMSULOSIN - tamsulosin 0.4 mg capsule. 2 capsule(s) by mouth 
at  
 bedtime  
 TESTOSTERONE [ANDROGEL] - AndroGel 1.25 gram/actuation (1%)  
 transdermal gel pump. 4 pumps daily  
 
 Medications - OTC  
 ACETAMINOPHEN - acetaminophen 325 mg tablet. ___ Tablet(s) by  
 mouth as needed for back or knee pain  
 ASPIRIN - aspirin 81 mg chewable tablet. 1 Tablet(s) by mouth  
 once a day  
 CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Vitamin D3 2,000 
unit  
 capsule. TAKE ONE CAPSULE EVERY DAY  
 CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) ER  
 2,000 mcg tablet,extended release. 1 Tablet(s) by mouth once a  

 day  
 SYRINGE WITH NEEDLE (DISP) [SYRINGE 3CC/25GX1"] - Syringe  
 3cc/25Gx1" 3 mL 25 x 1". use for injecting vitamin b12 qmonth  

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
3. Finasteride 5 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Lisinopril 2.5 mg PO DAILY 
6. Senna 8.6 mg PO DAILY Duration: 2 Doses 
7. Sertraline 25 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q6hrs Disp #*15 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign prostatic hypertrophy w/ lower urinary tract symptoms

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  

-If prescribed; complete the full course of antibiotics.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative

- AVOID STRAINING for bowel movements as this may stir up 
bleeding.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity for a minimum of 
four weeks or until you are cleared by your Urologist in 
follow-up

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery. 
 
Followup Instructions:
___